US04391826
Preparation of R-styrene oxide
A solution of 256.7 g. of R-2-phenyl-2-hydroxyethanol in 1000 ml. of toluene containing 50 ml. of pyridine was stirred at 0° C. while a solution of 372.1 g. of p-toluenesulfonyl chloride in 400 ml. of toluene was added dropwise over two hours. The reaction mixture was stirred at 0° C. for forty-eight hours and then filtered to remove the precipitated pyridine hydrochloride. The filtrate was concentrated to dryness by evaporation under reduced pressure to provide the product as an oil. The oil was dissolved in fresh toluene, washed with dilute hydrochloric acid and with water, and dried. Evaporation of the solvent under reduced pressure and crystallization of the product from diethyl ether and hexane afforded 435 g. of R-2-phenyl-2-hydroxy-1-p-toluenesulfonyloxyethane. The product thus formed was dissolved in 1000 ml. of dimethyl sulfoxide containing 418 ml. of 5 N sodium hydroxide. The alkaline solution was stirred at 0° C. for twelve hours, and then was poured into ice water. The product was extracted into 50% diethyl ether-pentane, and the organic layer was separated, washed with water and dried. Removal of the solvent by evaporation afforded, after distillation, 165 g. of R-styrene oxide, B.P. 55°-56° C. 0.6 torr. [α]D -23.7° (chloroform).

reactant | dimethyl sulfoxide | 418 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | R-styrene oxide | C1[C@H](O1)C2=CC=CC=C2 | C8H8O
